US07981874B2
4-[2-(4-Oxido-4-phenyl-1,4-azaphosphinan-1-yl)ethyl]benzoicacid.
tert-Butyl 4-[2-(4-oxido-4-phenyl-1,4-azaphosphinan-1-yl)ethyl]benzoate (215 mg, 0.538 mmol) was taken up in 4.0 M HCl in 1,4-dioxane (8.0 mL, 32.0 mmol) and stirred at room temperature overnight. The white slurry was concentrated to dryness, resuspended in MeOH, and concentrated again to afford the title compound as a colorless solid. MS: cal'd 344 (MH+), exp 344 (MH+).

reactant | tert-Butyl 4-[2-(4-oxido-4-phenyl-1,4-azaphosphinan-1-yl)ethyl]benzoate | 0.538 mmol, 215 mg | O=P1(CCN(CC1)CCC1=CC=C(C(=O)OC(C)(C)C)C=C1)C1=CC=CC=C1 | C23H30NO3P
reactant | 1,4-dioxane | 32.0 mmol, 8.0 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4.0 M | Cl | ClH
product | 4-[2-(4-Oxido-4-phenyl-1,4-azaphosphinan-1-yl)ethyl]benzoicacid | O=P1(CCN(CC1)CCC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C19H22NO3P
